US07943622B2
(4′-fluorobiphenyl-3-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
[1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with dichloromethane (1:1) (11 mg, 0.013 mmol) was added to a mixture of tert-butyl 4-(3-bromobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (126 mg, 0.264 mmol), 4-fluorobenzeneboronic acid (92 mg, 0.66 mmol) and sodium carbonate (56 mg, 0.52 mmol) in toluene (4 mL), 1,4-dioxane (1 mL), and water (1 mL). The reaction mixture was heated to 70° C. overnight. Upon cooling to room temperature, the reaction mixture was filtered through Celite®, concentrated under reduced pressure, and purified by HPLC (10 to 90% MeCN/0.1% TFA in H2O/0.1% TFA gradient), yielding a yellow oil. The oil was dissolved in MeOH (1 mL) and 4 M HCl in 1,4-dioxane (5 mL, 20 mmol) was added. After stirring for 4 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 95% MeCN/0.1% TFA in H2O/0.1% TFA gradient). This gave 80.5 mg (68%) of the desired product as a white solid upon conversion to the dihydrochloride salt. LC-MS: RT=4.92 min, [M+H]+=392.7.

reactant | dichloromethane | 0.013 mmol, 11 mg | ClCCl | CH2Cl2
reactant | tert-butyl 4-(3-bromobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.264 mmol, 126 mg | BrC=1C=C(C(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2)C=CC1 | C22H26BrN3O4
reactant | 4-fluorobenzeneboronic acid | 0.66 mmol, 92 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 0.52 mmol, 56 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 4 M | Cl | ClH
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
solvent | 1,4-dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | (4′-fluorobiphenyl-3-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C23H22FN3O2.2ClH/c24-20-8-6-17(7-9-20)18-3-1-4-19(13-18)23(28)27-12-11-26-14-21(27)16-29-22-5-2-10-25-15-22;;/h1-10,13,15,21,26H,11-12,14,16H2;2*1H
